Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
aspirin
 
Attending: ___.
 
Chief Complaint:
eye pain
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Ms. ___ is a ___ female who was transferred
from ___ for fever of unknown origin. She
initially developed symptoms of fever, myalgia/arthralgia and
headache 2 weeks prior to admission to ___.
She was seen by her PCP ___ was thought to be ___ to a
viral illness. However, her symptoms persisted which led her to
go to ___. On admission, she was found to
have anemia, mild transaminases with significant inflammatory
markers as well as + cannabinoid and cocaine. Her hospital 
course
was complicated by ___. Infectious disease, rheumatology,
nephrology, GI and Heme/onc was consulted. Infectious Work up 
was
negative for RPR, lyme, CMV, EBC serology, HIV, Hepatitis panel,
cold agglutinin, urine ___, and blood cultures. Pending ___
and mycoplasma serology. She was initially treated with
ceftriaxone but was discontinuted given the negative workup.
Rheumatological work up was negative for ___, DsDNA, Rheumatoid
factor/CCP, ANCA. Other work up included a CT head w/o contrast
was negative to explain her headache and blurry vision.
Unfortunately, MRI is contraindicated due to a metal piercing in
the patient's genital. CT abdomen on ___ volume overload. In
addition, she continues to have persistent anemia with a low
reticulocyte count leading to consultation of heme/onc who
ultimately recommended a bone marrow biopsy at ___. She was
transferred to use for further workup of recurrent fever and
possible bone marrow biopsy.

On presentation, the patient appeared to be agitated given her
prolong hospital stay. She remained uncooperative with questions
and exam. ROS was difficult to obtain. However, the patient's
mother was concern that the patient is having blurry vision.

ROS: Pertinent positives and negatives as noted in the HPI.  All
other systems were reviewed and are negative. 
 
Past Medical History:
- left knee arthroscopy, plantar fasciitis, pharyngitis,
tonsillitis and UTI

 
Social History:
___
Family History:
Grandfather with kidney stones, lupus in cousins.

 
Physical Exam:
ADMISSION
VITALS: Afebrile and vital signs stable (see eFlowsheet)
GENERAL: Alert and in no apparent distress, appeared to be
agitated.
EYES: Anicteric, pupils equally round
ENT: Ears and nose without visible erythema, masses, or trauma. 
Oropharynx without visible lesion, erythema or exudate
CV: Heart regular, + holosystolic murmur, no S3, no S4. no JVD.
RESP: Lungs clear to auscultation with good air movement
bilaterally.  Breathing is ___
GI: Abdomen soft, distended but ___ to palpation.  Bowel
sounds present.  
GU: No suprapubic fullness or tenderness to palpation
MSK: Neck supple, moves all extremities, strength grossly full
and symmetric bilaterally in all limbs
SKIN: No rashes or ulcerations noted, no splinter hemorrhage or
___ lesion. 
NEURO: Alert, oriented, face symmetric, gaze conjugate with 
EOMI,
speech fluent, moves all limbs, sensation to light touch grossly
intact throughout
PSYCH: pleasant, appropriate affect

DISCHARGE
VS: ___ 0730 Temp: 98.4 PO BP: 142/87 HR: 62 RR: 18 O2 sat:
99% O2 delivery: RA 
Gen - sitting up in bed, comfortable
Eyes - EOMI; sclera injected; PERRL; 
ENT - OP clear, MMM; 
Heart - RRR no mrg
Lungs - CTA bilaterally
Abd - soft nontender; normal bowel sounds 
Ext - no edema
Skin - no rashes
Vasc - 2+ DP/radial pulses
Neuro - AOx3, moving all extremities
Psych - appropriate
 
Pertinent Results:
ADMISSION 
___ 06:30AM BLOOD ___ 
___ Plt ___
___ 06:30AM BLOOD ___ 
___
___ 06:30AM BLOOD ___
___ 06:16AM BLOOD ___
___ 06:30AM BLOOD ___
___ 01:00PM BLOOD ___
___ 06:30AM BLOOD ___

DISCHARGE
___ 06:41AM BLOOD ___ 
___ Plt ___
___ 06:41AM BLOOD ___ 
___
___ 06:41AM BLOOD ___

CT Chest
No CT findings to suggest sarcoidosis.

 
Brief Hospital Course:
This is a ___ year old female with past medical history of 
recurrent vaginitis, prior left knee arthroscopy, recent complex 
course notable for nausea, fevers, joint pains, eye pain, ___, 
anemia, all of unclear etiology, transferred to ___ on 
___, found to have severe bilateral anterior uveitis, 
subsequently started on eye drops, with additional extensive 
workup without signs of autoimmune process, with OSH mycoplasma 
serologies returning positive, thought to have potentially had a 
reactive uveitis to this infection, started on doxycycline, and 
able to be discharged home.

# Eye pain secondary to 
# Acute Bilateral Uveitis 
At time of transfer to ___, patient's biggest concern was her 
eye pain. Exam with significant injection and light sensitivity, 
concerning for acute uveitis.  Patient was seen by ophthalmology 
and diagnosed with acute anterior uveitis.  She was started on 
steroid and atropine eye drops. Underlying cause was felt to be 
inflammatory vs infectious process, prompting evaluation by ID 
and rheum consult services.  Extensive workup was notable for a 
positive Mycoplasma pneumonia serology IgG and IgM, which 
returned from ___.  Otherwise notable for equivocal 
lyme serologies (confirmatory immunoassay pending at discharge). 
 Remainder of workup including chest CT and multiple infectious 
serologies, basic rheumatology panel were negative at ___ or 
___.  Patient felt to have had reactive uveitis 
secondary to mycoplasma pneumoniae infection.  For this, 
infectious disease consult service recommended 1 week of PO 
doxycycline.  Rheumatology service recommended no further 
workup. Ophthalmology consult recommended PrednisoLONE 1% and 
tropicamide eye drops pending further outpatient evaluation.  
Patient scheduled for rapid ophthalmology ___ on ___.  
Counseled patient on not driving until cleared by PCP or 
___ verbalized agreement. 

# ___ 
On transfer, noted to have ___ to Cr 1.2 from baseline 0.6.  Had 
peaked at 1.8 at OSH, then trended down to 1.0 by time of 
discharge.  UA without proteinuria.  Patient euvolemic.  
Suspected to be insult in setting of her initial acute illness, 
with subsequent slow improvement.  Would consider creatinine 
recheck at ___ to ensure continued improvement. 

# Anemia
Transfer to ___ had been initiated due to OSH concern patient 
required bone marrow biopsy.  Patient was seen by ___ 
hematology consult service who felt anemia was likely reactive 
to above systemic process, as well as iron deficiency.  Patient 
received 1 dose of IV iron, and was discharged on every other 
day iron.  Per hematology recommendations, she was scheduled for 
outpatient ___ clinic ___.  Would consider repeat 
Hgb check at ___ to ensure improvement. 

# Transaminitis 
Mild and stable through this admission.  Unclear if chronic vs 
part of above acute process.  At discharge ALT 72 AST 38 AP 172, 
Tbili 0.5.  Would consider repeat LFTs at ___ and 
consideration of additional workup if not normalized. 

# Abnormal TTE 
TTE incidentally showed "Mild symmetric left ventricular 
hypertrophy with normal cavity size and regional/global 
biventricular systolic function. Mild mitral
regurgitation."

Transitional issues: 
- Discharged home
- Patient counseled on not driving until cleared by 
ophthalmology or primary care physician
- ___ with rapid ophthalmology, primary care, hematology 
___ 
- Discharge Hgb 8.2, would recheck at ___ visit to ensure 
stability/improvement 
- Discharge Cr 1.0, would recheck at ___ visit to ensure 
improvement
- Per ID recommendations, would repeat M. pneumoniae serologies 
as outpatient ___ increase in IgG would further support 
diagnosis of mycoplasma pneumoniae)
diagnosis
- Eye drops to continue until otherwise instructed by 
ophthalmology
- Last day of 7day course of doxycycline = ___

> 30 minutes spent on this discharge
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. This patient is not taking any preadmission medications

 
Discharge Medications:
1.  Doxycycline Hyclate 100 mg PO Q12H Duration: 6 Days 
last day = ___ 
RX *doxycycline hyclate 100 mg 1 tablet(s) by mouth twice a day 
Disp #*13 Tablet Refills:*0 
2.  Ferrous Sulfate 325 mg PO EVERY OTHER DAY 
RX *ferrous sulfate 325 mg (65 mg iron) 1 tablet(s) by mouth 
every other day Disp #*14 Tablet Refills:*0 
3.  PrednisoLONE Acetate 1% Ophth. Susp. 1 DROP BOTH EYES Q4H 
RX *prednisolone acetate [Pred Forte] 1 % 1 drop ophth every 
four (4) hours Disp ___ Milliliter Milliliter Refills:*0 
4.  Tropicamide 1 % 1 DROP BOTH EYES BID 
RX *tropicamide 1 % 1 drop ophth twice a day Refills:*0 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
# Acute Bilateral Anterior Uveitis 
# ___ 
# Anemia
# Elevated LFTs

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Ms. ___: 

It was a pleasuring caring for you at ___.  You were 
transferred here with eye pain.  You were seen by eye doctors 
who ___ with a condition called "anterior uveitis".  
This can be caused by the body's response to an infection or 
inflammation.  You were started on eye drops and your eyes 
improved.  

You were seen by infection doctors and ___.  
Your testing showed that you might have recently had an 
infection called mycoplasma pneumoniae--this might have caused 
your eye condition to develop.  You were started on antibiotics 
to treat this infection.

It will be important for you to keep your ophthalmology (eye 
doctor), primary care doctors, and hematology (blood doctor) 
appointments. 

As we discussed, you should not be driving until you are cleared 
by your primary care doctor or ophthalmologist. 

You are now ready for discharge home. 
 
Followup Instructions:
___